US05783593
N-Benzyl-N-(4-chlorobenzyl)amine Hydrochloride
To 4-chlorobenzaldehyde (1.5 g, 10.7 mmol) dissolved in 40 mL CH2 Cl2 was added benzylamine (1.15g, 10.7 mmol) followed by 1 mL of 6N HCl. The resulting cloudy solution was stirred overnight at room temperature and then concentrated in vacuo to give a white solid. The solid was immediately dissolved in 50 mL of MeOH and the pH of the solution was adjusted to 6 with glacial acetic acid. To this solution was added NaCNBH3 (0.67 g, 10.7 mol), and the resulting clear solution was stirred three hours at room temperature. The mixture was acidified to pH 2 with 6M HCl whereupon a thick white slurry developed. The solid was stirred for 30 minutes and filtered, yielding the title compound as a white solid. 1H NMR δ(DMSO-d6, 300 MHz) δ4.1-4.2 (broad multiplet, 4H), 7.4-7.6 (m, 9H). MS (DCl/NH3) m/e 232 (M+H)+.

reactant | 4-chlorobenzaldehyde | 10.7 mmol, 1.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | benzylamine | 10.7 mmol, 1.15g | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | 6N, 1 mL | Cl | ClH
reactant | NaCNBH3 | 10.7 mol, 0.67 g | [BH3-]C#N.[Na+]
reactant | HCl | 6M | Cl | ClH
solvent | Cl2 | ClCl | Cl2
solvent | MeOH | 50 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-Benzyl-N-(4-chlorobenzyl)amine Hydrochloride | Cl.C(C1=CC=CC=C1)NCC1=CC=C(C=C1)Cl | InChI=1S/C14H14ClN.ClH/c15-14-8-6-13(7-9-14)11-16-10-12-4-2-1-3-5-12;/h1-9,16H,10-11H2;1H
